US05047519
B. Preparation of 9-Carboxyethylidene-3,6-dihydroxy2,7-dimethyl- 9H-xanthene (SF-512)
4-Methylresorcinol (25.8 g, 0.208 mol) and succinic anhydride (20.8 g, 0.208 g) were placed in a round bottom flask and the flask was purged with nitrogen. Methanesulfonic acid (150 mL) was added and the solution heated under nitrogen to 65° C. for 2 hours. The solution was added dropwise to 1 L of rapidly stirred, ice-cooled water with the simultaneous addition of 50% ag sodium hydroxide to maintain the pH at 2.25+/-0.25. The product was collected by centrifugation and washed with water (3×) and acetone (2×). The solid was air-dried, then vacuum-dried at 110° C. to afford a brick-red powder (24.1 g, 74%).

reactant | 4-Methylresorcinol | 0.208 mol, 25.8 g | CC1=C(C=C(O)C=C1)O | C7H8O2
reactant | succinic anhydride | 20.8 g | C1(CCC(=O)O1)=O | C4H4O3
product | 9-Carboxyethylidene-3,6-dihydroxy2,7-dimethyl- 9H-xanthene | 24.1 g, 74% | C(=O)(O)CC=C1C2=CC(=C(C=C2OC=2C=C(C(=CC12)C)O)O)C | C18H16O5
